US07776874B2
Step 2. (1R)-1′-({1-[4-(2-oxopiperazin-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
To a solution of tert-butyl 3-oxo-4-[4-(1-{[(1R)-3-oxo-1H,3H-spiro[2-benzofuran-1,3′-pyrrolidin]-1′-yl]carbonyl}cyclopropyl)phenyl]piperazine-1-carboxylate (180 mg, 0.00034 mol) in methanol (2 mL, 0.05 mol) was added 4 M of hydrogen chloride in 1,4-dioxane (0.4 mL) and the mixture was stirred at rt for 3 hours and then concentrated. LC/MS: 432.2 (M+H+).

reactant | tert-butyl 3-oxo-4-[4-(1-{[(1R)-3-oxo-1H,3H-spiro[2-benzofuran-1,3′-pyrrolidin]-1′-yl]carbonyl}cyclopropyl)phenyl]piperazine-1-carboxylate | 0.00034 mol, 180 mg | O=C1CN(CCN1C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O)C(=O)OC(C)(C)C | C30H33N3O6
reactant | methanol | 0.05 mol, 2 mL | CO | CH4O
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
product | (1R)-1′-({1-[4-(2-oxopiperazin-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | O=C1N(CCNC1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C25H25N3O4
